US06239131B1
Preparation of 1-methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-Methoxymethyl-2-oxo-3-hydroxyimino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.0 g) was dissolved in tetrahydrofuran (10 ml), propyl isocyanate (0.62 g) and triethylamine (0.74 g) were added thereto, the mixture was refluxed for 2 hours and 30 minutes. The reaction mixture was allowed to cool to room temperature, crystals so precipitated were collected by filtration, and the crystals were washed with diisopropyl ether, to thereby obtain 0.78 g of the titled compound as white crystals.

reactant | 1-Methoxymethyl-2-oxo-3-hydroxyimino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.0 g | COCN1C(C(CN(C2=C1C=C(C=C2)OC)C2=CC=CC=C2)=NO)=O | C18H19N3O4
reactant | propyl isocyanate | 0.62 g | C(CC)N=C=O | C4H7NO
reactant | triethylamine | 0.74 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.78 g | COCN1C(C(CN(C2=C1C=C(C=C2)OC)C2=CC=CC=C2)=NOC(=O)NCCC)=O | C22H26N4O5
